US07700589B2
48d) (R)-2-amino-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionic acid
A mixture of 10.0 g (34.6 mmol) ethyl (R)-2-acetylamino-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate and 120 mL 6 M HCl was refluxed for 3 h. The reaction mixture was cooled in the ice bath, the precipitate was suction filtered, washed with water and diisopropylether and dried.

reactant | ethyl (R)-2-acetylamino-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate | 34.6 mmol, 10.0 g | C(C)(=O)N[C@@H](C(=O)OCC)CC1=CC=2CCCCC2C=C1 | C17H23NO3
solvent | HCl | 6 M, 120 mL | Cl | ClH
product | (R)-2-amino-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionic acid | N[C@@H](C(=O)O)CC1=CC=2CCCCC2C=C1 | C13H17NO2
